US07754756B2
a. 2,2,2-trifluoro-1-(1H-indol-5-yl)-ethanone
At 0° C. and under argon a solution of 5-bromoindole (5.0 g, 25 mmol) in 25 ml THF is added dropwise to a suspension of potassium hydride (3.4 g of a 30% suspension in mineral oil, 25 mmol) in 50 ml THF. After 20 minutes stirring at 0° C. the mixture is cooled to −78° C. and over a period of 10 minutes a solution of tert-butyllithium (30 ml of a 1.7M solution in pentane, 51 mmol) is added dropwise. After 20 minutes stirring at −78° C. trifluoroacetic anhydride (7.2 ml, 51 mmol) is added and the mixture is stirred for 30 minutes at −78° C. Then ammonium chloride (20 ml saturated solution) is added and the mixture is slowly heated to RT. The reaction mixture is extracted with diethyl ether. The organic phases are combined, washed with saturated aqueous sodium chloride solution, dried on sodium sulphate and freed from the solvent in vacuo. The residue is chromatographed on silica gel (ethyl acetate/hexane=1:2).

reactant | 5-bromoindole | 25 mmol, 5.0 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | potassium hydride | [H-].[K+]
reactant | tert-butyllithium | C(C)(C)(C)[Li]
reactant | trifluoroacetic anhydride | 51 mmol, 7.2 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | pentane | CCCCC | C5H12
product | 2,2,2-trifluoro-1-(1H-indol-5-yl)-ethanone | FC(C(=O)C=1C=C2C=CNC2=CC1)(F)F | C10H6F3NO
